US05972976
To 15.1 g of 2-nitrobenzaldehvde was added 9.3 g of 4-picoline followed by addition of 5 ml of acetic anhydride and the mixture was refluxed for 12 hours. This reaction mixture was poured in ice-water, made basic with 2N--NaOH, and extracted with chloroform. The extract was dehydrated over anhydrous magnesium sulfate and the solvent was evaporated off to provide 22.40 g of (E)-2-[2-(4-pyridyl)ethenyl]-1-nitrobenzene. This product was treated as in Reference Example 2 (2) to provide the title compound.

reactant | 2-nitrobenzaldehvde | 15.1 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | 4-picoline | 9.3 g | N1=CC=C(C=C1)C | C6H7N
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (E)-2-[2-(4-pyridyl)ethenyl]-1-nitrobenzene | 22.40 g | N1=CC=C(C=C1)/C=C/C1=C(C=CC=C1)[N+](=O)[O-] | C13H10N2O2
